US04025637
Phenyl acetyl chloride (2.2 ml.) was added to a stirred solution of ethyl 2-(3-amino-4-hydroxyphenyl)propionate (3.15g.) in anhydrous pyridine (50 ml.) and the solution was heated at 100° C. for two hours. Excess pyridine was removed by distillation and the residue heated until the temperature of the distillate immediately above the reaction mixture was 200° C. The resultant dark brown gum was dissolved in ether (75 ml.) and then washed with water (3 × 50 ml.) The ether solution was extracted with 1N sodium hydroxide (50 ml.), washed with water (2 × 50 ml.) and evaporated to give ethyl 2-(2-benzyl-5-benzoxazolyl)propionate as a light brown mobile gum, which was shown to be pure by thin layer chromatography. Similarly the following esters were prepared and characterised:

reactant | Phenyl acetyl chloride | 2.2 ml | C1(=CC=CC=C1)CC(=O)Cl | C8H7ClO
reactant | ethyl 2-(3-amino-4-hydroxyphenyl)propionate | 3.15g | NC=1C=C(C=CC1O)C(C(=O)OCC)C | C11H15NO3
solvent | pyridine | 50 ml | N1=CC=CC=C1 | C5H5N
product | ethyl 2-(2-benzyl-5-benzoxazolyl)propionate | C(C1=CC=CC=C1)C=1OC2=C(N1)C=C(C=C2)C(C(=O)OCC)C | C19H19NO3
